US04647576
Isopropyl vinyl ketone (1.97 g, 20 mmol), prepared from isobutyryl chloride and vinyl trimethylsilane in accordance with the method detailed in Tet. Letters, (1979), 1995, was mixed with 4-fluorobenzaldehyde (2.4 g, 20 mmol), 2 ml (14 mmol) of triethylamine, and 1.0 g (4.0 mmol) of 2-(2-hydroxyethyl)-3-methyl-4-benzylthiazolium chloride. The mixture was stirred and heated under nitrogen for five hours. After cooling to room temperature, the mixture was partitioned between ether (200 ml) and water (50 ml). The water layer was extracted with 200 ml of ether and the ether solutions were combined. The combined ether solution was washed successively with 50 ml of water, two 50-ml portions of 2M hydrochloric acid, and 50 ml of brine. The ether solution was dried over anhydrous magnesium sulfate. After removal of the ether, the remaining liquid was flash chromatographed on silica gel eluting with 20:1 (volume/volume) hexane-ethyl acetate. This procedure afforded 2.59 g of pure 1-(4-fluorophenyl)-5-methyl-1,4-hexanedione, mp 47°-49° C.

reactant | Isopropyl vinyl ketone | 20 mmol, 1.97 g | C(=C)C(=O)C(C)C | C6H10O
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | vinyl trimethylsilane | C(=C)[Si](C)(C)C | C5H12Si
reactant | 4-fluorobenzaldehyde | 20 mmol, 2.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | triethylamine | 14 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2-hydroxyethyl)-3-methyl-4-benzylthiazolium chloride | 4.0 mmol, 1.0 g | [Cl-].OCCC=1SC=C([N+]1C)CC1=CC=CC=C1
product | 1-(4-fluorophenyl)-5-methyl-1,4-hexanedione | 2.59 g | FC1=CC=C(C=C1)C(CCC(C(C)C)=O)=O | C13H15FO2
